US05972965
A mixture of 3-[hydroxy(3-methoxyphenyl)methyl]-2-oxotetrahydrofuran (1.0 g) and 10% Pd/C (0.5 g) in ethanol (20 ml) was stirred under H2 for 10 hours. The catalyst was filtered off and the filtrate was evaporated in vacuo to give 3-(3-methoxybenzyl)-2-oxotetrahydrofuran (0.8 g) MS (m/z): 207 (M+ +1) IR (Neat): 1750 cm-1NMR (CDCl3, δ): 2.0-2.6 (4H, m), 2.7-3.2 (3H, m), 3.79 (3H, s), 4.1-4.4 (2H, m), 6.7-7.1 (3H, m), 7.2-7.4 (1H, m)

reactant | 3-[hydroxy(3-methoxyphenyl)methyl]-2-oxotetrahydrofuran | 1.0 g | OC(C1C(OCC1)=O)C1=CC(=CC=C1)OC | C12H14O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 3-(3-methoxybenzyl)-2-oxotetrahydrofuran | 0.8 g | COC=1C=C(CC2C(OCC2)=O)C=CC1 | C12H14O3
